US07592334B2
(b) (±)-(2R,3S)-3-amino-8-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-8-azaspiro[4.5]decan-2-ol
To a solution of 1,1-dimethylethyl {(2S,3R)-8-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-3-hydroxy-8-azaspiro[4.5]dec-2-yl}carbamate (0.92 mg, 0.206 mmol) in MeOH (2 mL) at 25° C. was added dropwise a 4M solution of HCl in dioxane (360 μL, 1.40 mmol). After 12 h, the solution was concentrated the residue neutralized using excess MP carbonate resin in DCM affording the free amine (26 mg, 36%) which was used without further purification: LCMS (ES) m/e 347 (M+H)+.

reactant | 1,1-dimethylethyl {(2S,3R)-8-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-3-hydroxy-8-azaspiro[4.5]dec-2-yl}carbamate | 0.206 mmol, 0.92 mg | FC=1C=NC2=CC=C(N=C2C1N1CCC2(C[C@H]([C@H](C2)NC(OC(C)(C)C)=O)O)CC1)OC | C23H31FN4O4
reactant | HCl | Cl | ClH
reactant | dioxane | 1.40 mmol, 360 μL | O1CCOCC1 | C4H8O2
solvent | MeOH | 2 mL | CO | CH4O
product | (±)-(2R,3S)-3-amino-8-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-8-azaspiro[4.5]decan-2-ol | N[C@@H]1[C@@H](CC2(C1)CCN(CC2)C2=C(C=NC1=CC=C(N=C21)OC)F)O | C18H23FN4O2
